US06897231B2
B. 1-Acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride
To a flask containing 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carboxylic acid (1.5 g, 5.9 mmol) was added dichloromethane (80 mL) and oxalyl chloride (1.02 mL, 11.7 mmol). The reaction was allowed to stir under a nitrogen atmosphere overnight. To the flask was added a catalytic amount of DMF. The reaction was allowed to stir for three hours. TLC indicated reaction was complete. The solvent was removed and a solid formed to yield the title compound (1.57 g, 84% yield).

reactant | 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carboxylic acid | 5.9 mmol, 1.5 g | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)O)C1=CC=C(C=C1)F | C16H11FN2O3
reactant | dichloromethane | 80 mL | ClCCl | CH2Cl2
reactant | oxalyl chloride | 11.7 mmol, 1.02 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 1-Acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride | 1.57 g, 84% yield | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)Cl)C1=CC=C(C=C1)F | C16H10ClFN2O2
